US04125726
8-Chloro-6-(2-chlorophenyl)-1,2-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-1-thione-3-carboxylic acid
A solution of 1.1 g (0.02 mole) of potassium hydroxide in 40 ml of methanol was treated with 2.1 g (0.005 mole) of 8-chloro-6-(2-chlorophenyl)-1,2-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-1-thione-3-carboxylic acid methyl ester in a beaker. The solution was boiled in a steambath for 15 min and then evaporated at reduced pressure at 50°-60°. An aqueous solution of the residue was acidified with cold 6N aqueous hydrochloric acid adding ice to keep the mixture cold. The solid was collected by filtration, washed with water and air dried on the funnel overnight to yield crude end product. Recrystallization from ethanol gave light tan crystals with mp 277°-280° (dec).

reactant | potassium hydroxide | 0.02 mole, 1.1 g | [OH-].[K+]
reactant | 8-chloro-6-(2-chlorophenyl)-1,2-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-1-thione-3-carboxylic acid methyl ester | 0.005 mole, 2.1 g | COC(=O)C=1NC(N2C1CN=C(C1=C2C=CC(=C1)Cl)C1=C(C=CC=C1)Cl)=S | C19H13Cl2N3O2S
solvent | methanol | 40 ml | CO | CH4O
product | 8-Chloro-6-(2-chlorophenyl)-1,2-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-1-thione-3-carboxylic acid | ClC=1C=CC2=C(C(=NCC=3N2C(NC3C(=O)O)=S)C3=C(C=CC=C3)Cl)C1 | C18H11Cl2N3O2S
